US07456164B2
N-{[4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methyl}-N-methylpropanamide
To a stirred solution of N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine (120 mg, 0.347 mmol) and triethylamine (121 μl, 0.867 mmol) in dichloromethane (1 ml) at 0° C. was added dropwise propionic anhydride (44 μl, 0.382 mmol). Reaction allowed to warm up to ambient temperature until reaction complete. Water (0.5 ml) and dichloromethane (15 ml) added to the reaction. The organic phase was separated and extracted with saturated NaHCO3 (3×10 ml). Organic washings were dried over Na2SO4 and concentrated in vacuo to give the title compound as an oil (153 mg, 82%). 1H NMR (400 MHz, CD3OD) δ 7.20-7.32 (2 doublets due to rotamers, 2H), 7.95 (d, 2H), 3.95-4.05 (m, 1H), 3.76-3.85 (m, 2H), 3.40-3.60 (multiple peaks due to rotamers, 4H), 2.70-2.88 (multiple peaks due to rotamers, 4H), 2.42-2.58 (m, 2H), 2.40 (s, 2H), 2.20-2.38 (m, 2H), 1.52-2.58 (several multiplets, 8H), 1.10 (d, 6H), 0.70-1.08 (two triplets due to rotamers, 3H).

reactant | N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine | 0.347 mmol, 120 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC | C21H34N2O2
reactant | triethylamine | 0.867 mmol, 121 μl | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.382 mmol, 44 μl | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Water | 0.5 ml | O | H2O
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-{[4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methyl}-N-methylpropanamide | 153 mg, 82% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN(C(CC)=O)C | C24H38N2O3
